US03947466
In the manner given in Example 2, 2'-chloro-5-nitro-2-(4H-1,2,4-triazol-4-yl)benzophenone in xylene is heated with paraformaldehyde to 118°-124° C to give 2'-chloro-5-nitro-2-]3,5-bis(hydroxymethyl)-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2'-chloro-5-nitro-2-(4H-1,2,4-triazol-4-yl)benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)[N+](=O)[O-])N1C=NN=C1)=O | C15H9ClN4O3
reactant | paraformaldehyde | C=O | CH2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
